US06432993B1
(23-2b) 5-{4-[6-(4-Hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[6-(4-hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (0.72 g) and 4N hydrogen chloride/ethyl acetate (40 ml) and the reaction mixture was purified to give the title compound (0.63 g).

reactant | 5-{4-[6-(4-hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.72 g | OC1=CC=C(C=C1)SC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C25H21N3O4S2
reactant | hydrogen chloride ethyl acetate | 4N, 40 ml | Cl.C(C)(=O)OCC
product | 5-{4-[6-(4-Hydroxyphenylthio)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.63 g | Cl.OC1=CC=C(C=C1)SC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | InChI=1S/C25H21N3O4S2.ClH/c1-28-21-13-19(33-18-8-4-16(29)5-9-18)10-11-20(21)26-23(28)14-32-17-6-2-15(3-7-17)12-22-24(30)27-25(31)34-22;/h2-11,13,22,29H,12,14H2,1H3,(H,27,30,31);1H
